US05134149
To a stirred solution of (2,3-dimethoxyphenyl)[1-[2-(4-fluorophenyl)ethyl]-4-piperidinyl]methanone (6.0 g, 16.2 mmol) in MeOH (100 mL) at 0° C. was added NaBH4 (1240 mg, 32.8 mmol) in two portions, over a one hour period. After stirring overnight, the solution was concentrated to a solid. The solid was partitioned between water and ether. The layers were separated and the aqueous layer was extracted with ether. The combined organic layers were washed with brine, dried (MgSO4), filtered, and evaporated to a solid. The solid was chromatographed on silica gel, eluting with acetone. The appropriate fractions were combined and evaporated to afford a white solid. The solid was recrystallized from cyclohexane to afford (±)-α-(2,3-dimethoxyphenyl)-1-[2-(4-fluorophenyl)-ethyl]-4-piperidinemethanol as white needles, m.p. 126°-127° C. Anal. Calcd for C22H28FNO3 : C, 70.75; H, 7.56; N, 3.75. Found: C, 70.86; H, 7.72; N, 3.93.

reactant | (2,3-dimethoxyphenyl)[1-[2-(4-fluorophenyl)ethyl]-4-piperidinyl]methanone | 16.2 mmol, 6.0 g | COC1=C(C=CC=C1OC)C(=O)C1CCN(CC1)CCC1=CC=C(C=C1)F | C22H26FNO3
reactant | NaBH4 | 32.8 mmol, 1240 mg | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (±)-α-(2,3-dimethoxyphenyl)-1-[2-(4-fluorophenyl)-ethyl]-4-piperidinemethanol | COC1=C(C=CC=C1OC)C(O)C1CCN(CC1)CCC1=CC=C(C=C1)F | C22H28FNO3
